US05985896
Potassium bis(trimethylsilyl)amide (300 mg) was added to a stirred solution of [2S,3S]-N-tert-butoxycarbonyl-2-phenylpiperidine-3-ol (160 mg) in dry 1,2-dimethoxyethane (3.0 ml) under a dry nitrogen atmosphere. After 30 minutes 5-bromo-7-bromomethylbenzofuran (290 mg) was added, and the reaction stirred for 18 hours at room temperature. The resulting mixture was then diluted with water (50 ml), and extracted into ethyl acetate (2×50 ml). The organic layers were separated and washed with brine (20 ml), dried over MgSO4, filtered and the solvent removed under reduced pressure. Purification by MPLC (20% ethyl acetate/n-hexane), afforded [2S,3S]-1-tert-butoxycarbonyl-2-phenyl-3-[(5-bromobenzofuran-7-yl)methyloxy]piperidine as a yellow gum (136 mg). 1H NMR (360 MHz,CDCl3)δ1.43 (9H, s), 1.65 (2H, m), 1.92 (2H, m), 2.70 (1H, t d, J=7.2, 3.0 Hz), 3.74 (2H,m), 4.90 (2H, d, J=5.0 Hz), 5.74 (1H, br s), 6.71 (1H, d, J=1.0 Hz), 7.30-7.42 (4H, m), 7.58 (3H, m), 7.75 (1H, d, J=1.0 Hz); MS m/z CI+ 487 (M+H+).

reactant | Potassium bis(trimethylsilyl)amide | 300 mg | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | [2S,3S]-N-tert-butoxycarbonyl-2-phenylpiperidine-3-ol | 160 mg | C(C)(C)(C)OC(=O)N1[C@H]([C@H](CCC1)O)C1=CC=CC=C1 | C16H23NO3
reactant | 5-bromo-7-bromomethylbenzofuran | 290 mg | BrC=1C=C(C2=C(C=CO2)C1)CBr | C9H6Br2O
solvent | 1,2-dimethoxyethane | 3.0 ml | COCCOC | C4H10O2
solvent | water | 50 ml | O | H2O
product | [2S,3S]-1-tert-butoxycarbonyl-2-phenyl-3-[(5-bromobenzofuran-7-yl)methyloxy]piperidine | 136 mg | C(C)(C)(C)OC(=O)N1[C@H]([C@H](CCC1)OCC1=CC(=CC=2C=COC21)Br)C2=CC=CC=C2 | C25H28BrNO4
